US07320972B2
A solution of dimethyl(4′-{(2S,3R)-3-[(3S)-3-{[tert-butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-4-oxo-1-phenylazetidin-2-yl}-3′-hydroxybiphenyl-3-yl)phosphonate (0.041 g, 0.059 mmol) in dry dichloromethane (5 mL) under nitrogen was cooled in ice and bromotrimethylsilane (0.030 mL, 0.30 mmol) was dripped in over 5 min. The reaction mixture was stirred at room temperature for 3 h, then methanol (1 mL) was added and the reaction was partitioned between water and ethyl acetate. The organic solution was washed successively with water (2×) and brine. The organic solution was dried over sodium sulfate, filtered and the solvent was removed by rotary evaporation under reduced pressure. The residue was purified by reverse-phase HPLC (Polaris C18-A 10 μ 250×21.2 mm column, 30% to 59% acetonitrile-0.1% trifluoroacetic acid in water) to afford (4′-{(2S,3R)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxo-1-phenylazetidin-2-yl}-3′-hydroxybiphenyl-3-yl)phosphonic acid as a white powder (0.014 g, 44%); 1H NMR (300 MHz, CD3OD) δ 8.0 (d, J=13.6 Hz, 1H), 6.9-7.8 (m, 15H), 5.17 (d, J=2.1 Hz, 1H), 4.63 (d, J=5.2 Hz, 1H), 3.15-3.25 (m, 1H), 1.8-2.1 (m, 4H) ppm; MS [M−H]+ 546, [2M−H]+ 1093.

reactant | dimethyl(4′-{(2S,3R)-3-[(3S)-3-{[tert-butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-4-oxo-1-phenylazetidin-2-yl}-3′-hydroxybiphenyl-3-yl)phosphonate | 0.059 mmol, 0.041 g | COP(OC)(=O)C=1C=C(C=CC1)C1=CC(=C(C=C1)[C@H]1N(C([C@@H]1CC[C@@H](C1=CC=C(C=C1)F)O[Si](C)(C)C(C)(C)C)=O)C1=CC=CC=C1)O | C38H45FNO6PSi
reactant | bromotrimethylsilane | 0.30 mmol, 0.030 mL | Br[Si](C)(C)C | C3H9BrSi
reactant | methanol | 1 mL | CO | CH4O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (4′-{(2S,3R)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxo-1-phenylazetidin-2-yl}-3′-hydroxybiphenyl-3-yl)phosphonic acid | 0.014 g, 44% | FC1=CC=C(C=C1)[C@H](CC[C@@H]1[C@H](N(C1=O)C1=CC=CC=C1)C1=C(C=C(C=C1)C1=CC(=CC=C1)P(O)(O)=O)O)O | C30H27FNO6P
